US07582769B2
5-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazole-2-sulfonic acid methylamide
An mixture of 1,1-carbonyldiimidazole (2 equiv), 5-amino-1,3,4-thiadiazole-2-sulfonic acid methylamide, cyclohexyl-(trans-4-methyl-cyclohexyl)-amine (1 equivalent) and DMAP (5 mol %) in THF-toluene (1:1) was heated for 16 h at 40° C. and then cooled to room temperature. The reaction mixture was concentrated in vacuo and the crude product was dissolved in MeCN and purified (HPLC method 1) to give the title compound.

reactant | 5-amino-1,3,4-thiadiazole-2-sulfonic acid methylamide | CNS(=O)(=O)C=1SC(=NN1)N | C3H6N4O2S2
reactant | cyclohexyl-(trans-4-methyl-cyclohexyl)-amine | 1 equivalent | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)C | C13H25N
reactant | THF toluene | C1CCOC1.C1(=CC=CC=C1)C
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazole-2-sulfonic acid methylamide | CNS(=O)(=O)C=1SC(=NN1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCCCC1 | C17H29N5O3S2
